US04656165
(b) (2S,3R)-N-p-methoxybenzyl-N-tert.-butylthiomethyl-2-bromo-3-hydroxybutyramide
To a solution of 1.83 g (10 mmol) of (2S,3R)-2-bromo-3-hydroxybutyric acid, manufactured analogously to a method prescribed by Shimohigashi et al., Bull. Chem. Soc. Japan 52, 949 (1979), there are added in succession, at room temperature, 2.76 g (10 mmol) of N-p-methoxybenzyl-N-tert.-butylthiomethylammonium chloride, 2.06 g (10 mmol) of dicyclohexyl carbodiimide and, dropwise, 1.40 ml (10 mmol) of triethylamine. The resulting reaction mixture is stirred at room temperature for 2 hours. The dicyclohexylurea which has separated out is filtered off with suction, and the filtrate is diluted with methylene chloride and washed with water and phosphate buffer solution of pH 8. The organic phase is dried over sodium sulphate and concentrated by evaporation, and the oily residue is chromatographed over silica gel with toluene/ethyl acetate. The title compound is obtained in the form of a colourless, viscous oil. Rf (toluene/ethyl acetate 1:1): 0.55; IR (in methylene chloride): 3550-3200, 2950-2850, 1632, 1608, 1508, 1457, 1438, 1407, 1360, 1242, 1202, 1175, 1150, 1028 cm-1.

reactant | (2S,3R)-2-bromo-3-hydroxybutyric acid | 10 mmol, 1.83 g | Br[C@H](C(=O)O)[C@@H](C)O | C4H7BrO3
reactant | N-p-methoxybenzyl-N-tert.-butylthiomethylammonium chloride | 10 mmol, 2.76 g | [Cl-].COC1=CC=C(C[NH2+]CSC(C)(C)C)C=C1
reactant | dicyclohexyl carbodiimide | 10 mmol, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 10 mmol, 1.40 ml | C(C)N(CC)CC | C6H15N
product | (2S,3R)-N-p-methoxybenzyl-N-tert.-butylthiomethyl-2-bromo-3-hydroxybutyramide | COC1=CC=C(CN(C([C@H]([C@@H](C)O)Br)=O)CSC(C)(C)C)C=C1 | C17H26BrNO3S
